US09371320B2
A-2) 3-iodo-4-methoxy-1-(1-methoxybutan-2-yl)-1H-pyrrolo[3,2-c]pyridine
To a solution of 3-iodo-4-methoxy-1H-pyrrolo[3,2-c]pyridine (0.500 g) in DMF (15 mL) was added sodium hydride (60% dispersion in mineral oil, 18.3 mg), and the mixture was stirred at room temperature for 1 hr, 1-methoxybutan-2-yl 4-methylbenzenesulfonate (1.18 g) was added thereto, and the mixture was stirred overnight at room temperature. The reaction mixture was extracted with water and ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (589 mg).

reactant | 3-iodo-4-methoxy-1H-pyrrolo[3,2-c]pyridine | 0.500 g | IC1=CNC2=C1C(=NC=C2)OC | C8H7IN2O
reactant | sodium hydride | 18.3 mg | [H-].[Na+]
reactant | 1-methoxybutan-2-yl 4-methylbenzenesulfonate | 1.18 g | CC1=CC=C(C=C1)S(=O)(=O)OC(COC)CC | C12H18O4S
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-iodo-4-methoxy-1-(1-methoxybutan-2-yl)-1H-pyrrolo[3,2-c]pyridine | 589 mg | IC1=CN(C2=C1C(=NC=C2)OC)C(COC)CC | C13H17IN2O2
